US07410966B2
a) 4-(6-Chloro-7-methoxy-3H-imidazo[4,5-b]pyridin-2-yl)aniline
6-Chloro-7-methoxy-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine (0.56 g, 1.8 mmol) was dissolved in methanol (30 ml). (NH4)2S (20% in water, 5 ml, 15 mmol) was added and the mixture was heated to reflux for 5 h. The methanol was removed under reduced pressure and the resulting precipitate was filtered off and washed with ice-cold water giving 0.486 g (96%) of the subtitle compound.

reactant | 6-Chloro-7-methoxy-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine | 1.8 mmol, 0.56 g | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])OC | C13H9ClN4O3
solvent | methanol | 30 ml | CO | CH4O
product | 4-(6-Chloro-7-methoxy-3H-imidazo[4,5-b]pyridin-2-yl)aniline | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(N)C=C2)OC | C13H11ClN4O
